data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_188468_1,[C@:1]([C@@:2]1([H:12])[C@@:3]([N:7]([H:14])[H:15])([H:13])[C:4]1([H:16])[H:17])([C:6]([C:5]([H:18])([H:19])[H:20])=[O:9])([O:8][H:10])[H:11]>>[C:1](=[C:2](\[C:4]([C@:3]([C:6]([C:5]([H:18])([H:19])[H:20])=[O:9])([N:7]([H:14])[H:15])[H:13])([H:16])[H:17])[H:12])(\[O:8][H:10])[H:11],58.63171749999651
MR_585864_1,[C:1](/[C:3](=[C:4](\[C:2]([H:15])([H:16])[H:17])[O:8][H:10])[O:7][H:9])([O:6][N:5]([H:11])[H:12])([H:13])[H:14]>>[C:1](=[C:3]([C@:4]([C:2]([H:15])([H:16])[H:17])([O:6][N:5]([H:11])[H:12])[O:8][H:10])[O:7][H:9])([H:13])[H:14],38.27436249999451
MR_472979_0,[C:1](/[N:8]=[N:7]/[C:4]([C:2]([H:14])([H:15])[H:16])=[C:3]([O:5][H:10])[O:6][H:9])([H:11])([H:12])[H:13]>>[C:1]([N:8]1[C:3]([O:5][H:10])([O:6][H:9])[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]1)([H:11])([H:12])[H:13],33.361037500022235
MR_118426_1,[C:1](/[C:3]([C:2]([N:4]([H:9])[H:10])=[O:7])=[N:6]\[H:11])([C:5](=[O:8])[H:12])([H:13])[H:14]>>[C:1]1([H:13])([H:14])/[C:3](=[N:6]\[H:11])[C:2]([N:4]([H:9])[H:10])([H:12])[O:7][C:5]1=[O:8],68.23309500001045
MR_311847_0,[C:1](/[N:7]=[C:5](/[N:3](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8]/[H:10])[O:6][H:9])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:7](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8]/[H:10])/[C:5](=[N:3]/[O:6][H:9])[H:11])([H:12])([H:13])[H:14],50.526300000022246
MR_239401_2,[C:1]([C:2]([C:3]([H:9])([H:11])[H:12])=[O:6])([O:4][H:7])([O:5][H:8])[H:10]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[O:6][H:9])([O:4][H:7])([O:5][H:8])[H:10],72.36267249996402
MR_250010_0,[C:1]([C:4]([C:2]([H:10])([H:13])[H:14])=[N:6][C:3]([O:5][H:8])=[O:7])([H:9])([H:11])[H:12]>>[C:1]([C:4]1([C:2]([H:10])([H:13])[H:14])[N:6]=[C:3]([O:5][H:8])[O:7]1)([H:9])([H:11])[H:12],38.288167499995325
MR_636351_0,[C:1]1([O:5][H:8])([H:10])[C:4]([C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])([O:6][H:9])[N:7]1[H:11]>>[C:1](/[C:4]([C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])=[N:7]\[H:11])([O:5][H:8])([O:6][H:9])[H:10],50.036850000009565
MR_222754_0,[C:1]([C:3]([C:4](=[C:5]([H:16])[H:17])[H:12])([O:6][H:9])[N:8]([C:2]([H:13])([H:14])[H:15])[H:10])(=[O:7])[H:11]>>[C:1](/[C:3]([O:6][H:9])=[N:8]/[C:2]([H:13])([H:14])[H:15])([C:4](=[C:5]([H:16])[H:17])[H:12])([O:7][H:10])[H:11],40.33758249999309
MR_297198_2,[C@@:1]([C:2]([O:9][H:10])([H:13])[H:14])([C:4]([H:18])([H:19])[H:20])([C:5](=[C:7]([H:21])[H:22])[O:8][C:3]([H:15])([H:16])[H:17])[N:6]([H:11])[H:12]>>[C@@:1]([C:4]([H:18])([H:19])[H:20])([C:5]([C:2]([O:9][H:10])([H:13])[H:14])=[C:7]([H:21])[H:22])([N:6]([H:11])[H:12])[O:8][C:3]([H:15])([H:16])[H:17],68.24187999998827
MR_434510_0,[C:1]1([C:3]([H:11])([H:12])[H:13])([O:8][H:10])[C:2]([C:4]([H:14])([H:15])[H:16])([C:6]([C:5]([H:17])([H:18])[H:19])=[O:9])[O:7]1>>[C:1]1([C:3]([H:11])([H:12])[H:13])([O:8][H:10])[O:7][C:2]([C:4]([H:14])([H:15])[H:16])=[C:6]([C:5]([H:17])([H:18])[H:19])[O:9]1,41.2311425000199
MR_98099_0,[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:3]([N:5]([H:10])[H:11])=[C:6](/[O:7][N:4]([H:8])[H:9])[H:12])([H:13])[H:14]>>[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:6](=[C:3](\[N:5]([H:10])[H:11])[O:7][N:4]([H:8])[H:9])[H:12])([H:13])[H:14],70.90938249999496
MR_621968_0,[C:1]([N:3](/[C:5](=[N:8]\[H:10])[H:11])/[N:7]=[C:4](\[C:2]([H:15])([H:16])[H:17])[O:6][H:9])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[N:7]/[C:4]([C:2]([H:15])([H:16])[H:17])(/[C:5](=[N:8]\[H:10])[H:11])[O:6][H:9])([H:12])([H:13])[H:14],72.81321750000359
MR_209904_0,[C:1]12([N:3]([H:11])[H:12])[C:5]([H:14])([C:4]([H:13])=[N:7][N:6]1[N:2]([H:9])[H:10])[O:8]2>>[C:1]([N:3]([H:11])[H:12])(/[C:5](=[C:4](\[N:7]=[N:6]\[N:2]([H:9])[H:10])[H:13])[H:14])=[O:8],10.456660000030382
MR_359665_0,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])/[C:5](=[N:6]\[N:4]([H:7])[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:3][C:5]([N:6]([C:2]([H:13])([H:14])[H:15])[N:4]([H:7])[H:8])[H:9])([H:10])([H:11])[H:12],68.70372000003499
MR_80753_0,[C:1]([C@:5]1([H:10])[C@@:3]2([H:8])[N:2]([H:7])[C:4]2([H:9])[C:6]1([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1](/[C:5](=[C:3](/[N:2]([C:4](=[C:6]([H:14])[H:15])[H:9])[H:7])[H:8])[H:10])([H:11])([H:12])[H:13],43.47069000001916
MR_619026_0,[C:1]([C:2]([N:7]=[C:6]([H:16])[H:17])([H:14])[H:15])([N:3]([N:4]([H:9])[H:10])[N:5]([H:8])[H:11])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:2]([H:14])([H:15])[N:7]1[C:6]([N:3]([N:4]([H:9])[H:10])[N:5]([H:8])[H:11])([H:16])[H:17],69.32243500000666
MR_524353_1,[C:1]1([C:3]([H:16])([H:17])[H:18])([H:11])[C:2]([H:13])([H:14])[C:5](=[C:8]([H:19])[H:20])[C:7]1(/[C:6](=[N:4]/[O:9][H:10])[H:12])[H:15]>>[C:1]1([C:3]([H:16])([H:17])[H:18])([H:11])[C:2]([H:13])([H:14])[C:5](=[C:8]([H:19])[H:20])[N:4]([O:9][H:10])[C:6]([H:12])=[C:7]1[H:15],63.99935249996318
MR_601431_2,[C:1]1([H:12])([H:13])[C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:8])([O:6][N:5]([H:9])[H:10])[N:7]1[H:11]>>[C:1](/[C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:8])=[N:7]\[H:11])([O:6][N:5]([H:9])[H:10])([H:12])[H:13],54.32832249998242
